US04727180
To a suspension of 2.15 (0.085 mole) of sodium hydride in 200 ml dimethylformamide is added 29.1 g (0.075 mole) of 3-{2-nitro-4-[2,2,2-trifluoro-1-hydroxy-1-(trifluoromethyl)ethyl]phenyl}-N,N-dimethylpropanamide in in 50 ml dimethylformamide at such a rate that excessive foaming is avoided. To the resulting suspension, stirred in a nitrogen atmosphere, is added 14.2 g (0.10 mole) of methyl iodide to give a reaction mixture, which is stirred at room temperature overnight. The reaction mixture is then treated with 5 ml of ethanol, poured into 1-liter of water and extracted with ether. The resulting ether solution is washed with water, dried over anhydrous magnesium sulfate, filtered and evaporated at reduced pressure to obtain a residual oil which is chromatographed on Silicar® CC-7. Elution with chloroform gives a major fraction consisting of 16 g which is recrystallized from hexane to give 3-{2-nitro-4-[2,2,2-trifluoro-1-methoxy-1-(trifluoromethyl)ethyl]phenyl}-N,N-dimethylpropanamide having a melting point of 51° -54°.

reactant | sodium hydride | [H-].[Na+]
reactant | 3-{2-nitro-4-[2,2,2-trifluoro-1-hydroxy-1-(trifluoromethyl)ethyl]phenyl}-N,N-dimethylpropanamide | 0.075 mole, 29.1 g | [N+](=O)([O-])C1=C(C=CC(=C1)C(C(F)(F)F)(C(F)(F)F)O)CCC(=O)N(C)C | C14H14F6N2O4
reactant | methyl iodide | 0.10 mole, 14.2 g | CI | CH3I
reactant | ethanol | 5 ml | C(C)O | C2H6O
solvent | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | water | 1-liter | O | H2O
product | 3-{2-nitro-4-[2,2,2-trifluoro-1-methoxy-1-(trifluoromethyl)ethyl]phenyl}-N,N-dimethylpropanamide | [N+](=O)([O-])C1=C(C=CC(=C1)C(C(F)(F)F)(C(F)(F)F)OC)CCC(=O)N(C)C | C15H16F6N2O4
